US07429565B2
[4-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-phosphonic acid
To a solution of [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-phosphonic acid dimethyl ester (18 mg, 0.049 mmol) in acetonitrile (2 mL) was added TMSBr (63 μL, 0.49 mmol) and 2,6-lutidine (85 μL, 0.73 mmol) at 0° C. The reaction solution was allowed to warm to room temperature and stirred for 2 hours when completion of the reaction was observed by LCMS. The reaction was cooled to 0° C. and quenched by the addition of MeOH. The reaction mixture was concentrated under reduced pressure and the residue was purified by RP HPLC using a C18 column with a gradient of H2O-acetonitrile (5-0%) over 20 minutes to provide 12.2 mg (73%) of the product. 1H NMR (300 MHz, CD3OD) δ 1.95 (s, 3H), 2.15 (s, 3H), 2.48 (d, 2H, J=22 Hz), 3.44 (t, 2H, J=6 Hz), 3.79 (s, 3H), 5.24 (s, 2H),5.38 (q, 1H, J=7 Hz), 6.87 (br s, 1H) ppm; MS (m/z) 341 [M−H]−.

reactant | [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-phosphonic acid dimethyl ester | 0.049 mmol, 18 mg | COP(OC)(=O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C17H23O7P
reactant | TMSBr | 0.49 mmol, 63 μL | C[Si](C)(C)Br | C3H9BrSi
reactant | 2,6-lutidine | 0.73 mmol, 85 μL | N1=C(C=CC=C1C)C | C7H9N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | [4-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-phosphonic acid | 12.2 mg, 73% | OC1=C2C(OCC2=C(C(=C1CC=C(CP(O)(O)=O)C)OC)C)=O | C15H19O7P
